US07947685B2
Step 4: 3-(5-Fluoro-pyridin-3-ylamino)-pyrazine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
3-Amino-pyrazine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide hydrochloride (120 mg, 0.47 mmol), 3,5-difluoropyridine (500 mg, 4.4 mmol), cesium carbonate (610 mg, 1.89 mmol) and 1 mL N,N-dimethylformamide were mixed and stirred under microwave irradiation for 60 minutes at 180° C. The reaction mixture was extracted with sat. NaHCO3— solution and three times ethyl acetate. The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethyl acetate 90:10->30:70 gradient). The desired compound was obtained as a yellow solid (24 mg, 16%), MS: m/e=314.0 (M+H+).

reactant | 3-Amino-pyrazine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide hydrochloride | 0.47 mmol, 120 mg | Cl.CN1N=C(C=C1)NC(=O)C1=NC=CN=C1N
reactant | 3,5-difluoropyridine | 4.4 mmol, 500 mg | FC=1C=NC=C(C1)F | C5H3F2N
reactant | cesium carbonate | 1.89 mmol, 610 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(5-Fluoro-pyridin-3-ylamino)-pyrazine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC=CN=C1NC=1C=NC=C(C1)F | C14H12FN7O
